US06878728B1
2-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)ethyl 4-methylbenzenesulfonate
To a solution of (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(2-hydroxyethoxy)benzyl]propylcarbamate (0.11 g, 0.18 mmol), triethyl amine (0.055 mL, 40 mg, 0.39 mmol), and 4-dimethylaminopyridine (2 mg), in dichloromethane at 0° C. was added p-toluenesulfonyl chloride (38 mg, 0.2 mmol) and the mixture was stirred at ambient temperature for 4 h. Solvent was evaporated and the residue was purified by chromatography (silica gel, dichloromethane/methanol, 98:2) to provide the title compound as a solid foam (0.105 g). 1H NMR (DMSO-d6): δ 0.78 (3H, d), 0.82 (3H, d), 1.2 (1H, dd), 1.37 (1H, quintuplet), 1.9-2.0 (1H, m), 2.3 (1H, dd), 2.38 (3H, s), 2.6-2.8 (2H, m), 2.9 (1H, d), 2.97 (1H, dd), 3.2-3.3 (1H, m), 3.4-3.5 (1H, m), 3.5-3.6 (4H, m), 3.7 (1H, t), 3.8 (1H, dd), 4.0 (2H, d), 4.3 (2H, t), 4.8 (1H, dt), 5.0 (1H, d), 5.5 (1H, d), 6.18 (2H, s), 6.7 (2H, d), 7.0-7.1 (3H, m), 7.2 (1H, d), 7.22 (1H, s), 7.29 (1H, d), 7.4 (2H, d), 7.8 (2H, d); MS: 791 (MH+)

reactant | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(2-hydroxyethoxy)benzyl]propylcarbamate | 0.18 mmol, 0.11 g | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCO)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C30H40N2O11S
reactant | triethyl amine | 0.39 mmol, 0.055 mL, 40 mg | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 0.2 mmol, 38 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-dimethylaminopyridine | 2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-{(2S,3R)-2-({[(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yloxy]carbonyl}amino)-4-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-3-hydroxybutyl}phenoxy)ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1=CC=C(C=C1)C[C@@H]([C@@H](CN(CC(C)C)S(=O)(=O)C1=CC2=C(OCO2)C=C1)O)NC(=O)O[C@H]1CO[C@H]2OCC[C@H]21 | C37H46N2O13S2
